US07902373B2
Step A: Preparation of tert-butyl 6-(2,5-difluorophenyl)nicotinate
To round-bottom flask was added 2,5-difluoro phenylboronic acid (306 mg, 1.94 mmol), palladium tetrakis(triphenylphosphine) (22.4 mg, 0.0194 mmol)) and tert-butyl 6-bromonicotinate (500 mg, 1.94 mmol) and the mixture was evacuated 3× with N2. The solids were dissolved in 25 mL of DMF, followed by addition of 2.9 mL of 2 M cesium carbonate. The resulting mixture was heated to ˜90° C. The mixture was cooled to rt and then poured into a sep. funnel, followed by addition of EtOAc and water (1×200 mL). The layers were separated and the organic extract washed with brine (1×200 mL), dried MgSO4, filtered and concentrated to afford an orange oil. The crude mixture was purified by chromatography (silica, 10% EtOAc:Heptane) to afford the desired product (224 mg, 40%). 1H NMR (400 MHz, DMSO-d6) □ ppm 9.07-9.19 (1H, m), 8.36 (1H, dd, J=8.2, 2.2 Hz), 7.99 (1H, dd, J=8.3, 1.8 Hz), 7.75-7.86 (1H, m), 7.36-7.52 (1H, m), 7.36-7.52 (2H, m), 1.59 (9H, s). LC/MS (M+H)=292.1 observed, 292.11 expected.

reactant | 2,5-difluoro phenylboronic acid | 1.94 mmol, 306 mg | FC1=C(C=C(C=C1)F)B(O)O | C6H5BF2O2
reactant | tert-butyl 6-bromonicotinate | 1.94 mmol, 500 mg | BrC1=NC=C(C(=O)OC(C)(C)C)C=C1 | C10H12BrNO2
catalyst | palladium tetrakis(triphenylphosphine) | 0.0194 mmol, 22.4 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
product | tert-butyl 6-(2,5-difluorophenyl)nicotinate | 224 mg, 40% | FC1=C(C=C(C=C1)F)C1=NC=C(C(=O)OC(C)(C)C)C=C1 | C16H15F2NO2
